US08030305B2
Oxo-quinolin-6-yl-acetic acid methyl ester
To the solution of methyl 6-quinolineacetate (1.2 g, 6 mmmol) in dioxane (30 mL) was added Selenium dioxide (1.65 g, 15 mmol). The mixture was heated to reflux for 3 days, cooled to room temperature, filtered through Celite and concentrated. The residue was purified by chromatography (methylene chloride to 5% ethyl acetate in chloride) to a white solid (0.75 g, 58%). 1H-NMR (CDCl3): δ 9.07-9.06 (1H, q, J=1.7, 2.5 Hz), 8.62-8.61 (1H, d,J=1.7 Hz), 8.32-8.31 (2H, m), 8.22-8.20 (1H, d, J=8.8 Hz), 7.54-7.51 (1H, q, J=8.8Hz), 4.05 (3H, s).

reactant | methyl 6-quinolineacetate | 1.2 g | N1=CC=CC2=CC(=CC=C12)CC(=O)OC | C12H11NO2
reactant | Selenium dioxide | 15 mmol, 1.65 g | [Se](=O)=O | O2Se
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Oxo-quinolin-6-yl-acetic acid methyl ester | COC(C(C=1C=C2C=CC=NC2=CC1)=O)=O | C12H9NO3
